US06060508
3.86 g (28.6 mmol) of N-methylmorpholine N-oxide, 10 ml of water and 20 ml of acetone are placed in a 100 ml three-necked flask. 2.1 ml of a 1% by mass solution of osmium tetroxide in tort-butanol are added dropwise, followed by a solution of 5.2 g (26 mol) of 2,3-dimethyl-7-ethenylbenzofuran in 10 ml of acetone. The reaction mixture is stirred for 5 hours at room temperature. 100 ml of water are added and extraction is carried out with ethyl acetate (3×150 ml). The organic phases are combined, washed with 100 ml of a 1% sodium bisulphite solution and 100 ml of a 1% sodium bicarbonate solution, dried over magnesium sulphate and concentrated. The residue is purified by chromatography on a silica column (elution solvent: 35% ethyl acetate in cyclohexane). 4.2 g (Yield: 85%) of 2,3-dimethyl-7-(1,2-dihydroxyethyl)benzofuran are obtained in the form of a white solid. M.p.=93-95° C.

reactant | N-methylmorpholine N-oxide | 28.6 mmol, 3.86 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 10 ml | O | H2O
reactant | butanol | C(CCC)O | C4H10O
reactant | 2,3-dimethyl-7-ethenylbenzofuran | 26 mol, 5.2 g | CC=1OC2=C(C1C)C=CC=C2C=C | C12H12O
reactant | water | 100 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2,3-dimethyl-7-(1,2-dihydroxyethyl)benzofuran | 4.2 g, Yield: 85% | CC=1OC2=C(C1C)C=CC=C2C(CO)O | C12H14O3
